US05750213
First, 2.4 g of 2,3-difluoro-4'-[12,12-bis(hydroxymethyl)dodecyl]oxybiphenyl, 1.3 g of triethylamine, and 100 ml of tetrahydrofuran were placed in a 200 ml flask. Then, 15 ml of tetrahydrofuran solution in which 1.1 g of acryloyl chloride was dissolved was added dropwise to the reaction mixture under ice water cooling, and the resultant reaction mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was poured into water, and an organic layer was extracted with ether. The ether layer was washed with diluted hydrochloric acid and water in this order, and then dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=20/1) and recrystallized from hexane to obtain 1.7 g of 2,3-difluoro-4'-[12,12-bis(acryloyloxymethyl)dodecyl]oxybiphenyl (Y: 57%). The compound thus obtained had a purity of 99.6% by GC, 100% by HPLC, and 1 spot by TLC. The compound thus obtained had an m.p. of 33.4° C. to 34.4° C.

reactant | 2,3-difluoro-4'-[12,12-bis(hydroxymethyl)dodecyl]oxybiphenyl | 2.4 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCC(CO)CO | C26H36F2O3
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | acryloyl chloride | 1.1 g | C(C=C)(=O)Cl | C3H3ClO
product | 2,3-difluoro-4'-[12,12-bis(acryloyloxymethyl)dodecyl]oxybiphenyl | 1.7 g, 57% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCC(COC(C=C)=O)COC(C=C)=O | C32H40F2O5
